US07759512B2
Preparation of 2,2,3,3-tetrafluoropropyl-1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate
2,2,3,3-tetrafluoropropan-1-ol (202 grams, 1.52 moles, Sinochem Corp., Beijing, China), 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride (3M Company, Saint Paul, Minn., 465 grams, 1.52 moles) and water (500 g) were combined in a 3-liter, 3-necked round bottom flask. The flask was equipped with a magnetic stirrer, cold water condenser, thermocouple and an addition funnel. Aqueous potassium hydroxide (45 percent by weight, 211.5 g, 1.7 moles, Aldrich Chemical Co., Milwaukee, Wis.) was added dropwise via the addition funnel at such a rate that the temperature did not exceed 35° C. Once the addition of the potassium hydroxide was complete, the mixture was stirred for 16 hours at room temperature. Precipitated salts were then filtered from the mixture and the lower liquid fluorochemical product phase was separated from the upper aqueous phase. Unreacted 2,2,3,3-tetrafluoropropan-1-ol and 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride were removed from the liquid fluorochemical product phase by atmospheric distillation. Approximately 500 g of 2,2,3,3-tetrafluoropropyl-1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate was recovered at a purity of 98.9 percent as determined by gas chromatography analysis.

reactant | 2,2,3,3-tetrafluoropropan-1-ol | 1.52 moles, 202 grams | FC(CO)(C(F)F)F | C3H4F4O
reactant | 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride | 1.52 moles, 3M, 465 grams | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | potassium hydroxide | 1.7 moles, 211.5 g | [OH-].[K+]
solvent | water | 500 g | O | H2O
product | 2,2,3,3-tetrafluoropropyl-1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | FC(COS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(C(F)F)F | C7H3F13O3S
